US06458810B1
A mixture of 2,6-dioxo-3-benzyloxycarbonylamino-5-acetoxypiperidine (9 g, 28.2 mmol) (U. Teubert et al, Arch. Pharm. Pharm. Med. Chem. (1998) 7-12), and Pd/C (10%, 0.9 g) in acetic acid (90 mL) is shaken under hydrogen (50-60 psi) for 3 hours. The suspension is filtered through a pad of Celite and washed with acetic acid. To the filtrate is added 3-methylphthalic anhydride (4.56 g, 28.2 mmol) and this mixture is heated at reflux for 18 hours. The solvent is removed in vacuo to give 3-(4-methyl-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine which can be further purified by column chromatography.

reactant | 2,6-dioxo-3-benzyloxycarbonylamino-5-acetoxypiperidine | 28.2 mmol, 9 g | O=C1NC(C(CC1NC(=O)OCC1=CC=CC=C1)OC(C)=O)=O | C15H16N2O6
reactant | 3-methylphthalic anhydride | 28.2 mmol, 4.56 g | CC1=C2C(C(=O)OC2=O)=CC=C1 | C9H6O3
solvent | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.9 g | [Pd] | Pd
product | 3-(4-methyl-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine | CC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(C(C1)OC(C)=O)=O)=O)=O | C16H14N2O6
